### PR TITLE
Some cohomology fixes

### PR DESCRIPTION
**Pull request by aljungstrom**
This PR contains:

- A rewritten proof of the wedge connectivity lemma for spheres using mutual induction instead of a massive sigma type. I was hoping this would make Agda a bit happier...
- A new definition of inversion of elements in the Eilenberg-MacLane spaces
- Some more tests in ZCohomology.Groups. In particular, tests for a new strange definition of addition which suddenly makes some things compute.

Edit: Added `Experiments.ZCohomologyExperiments` with some strange examples of the new definition of addition.

### CODE REVIEW

**Comment by aljungstrom** [comment]
@ecavallo Do you understand the error message from Travis...?

**Comment by ecavallo** [comment]
Yes, it's because of a change to Agda... I'm updating my local copy now and will make a PR to fix when it's done.

File: Cubical/HITs/Sn/Properties.agda [hunk 1]
```diff
@@ -71,14 +71,25 @@ sphereToPropElim (suc n) {A = A} hlev pt (merid a i) =
 -- (iii) the fact that the two homotopies only differ by (composition with) the homotopy leftFunction(base) ≡ rightFunction(base)
 -- is close to trivial
 
-wedgeConSn : ∀ {ℓ} (n m : ℕ) {A : (S₊ (suc n)) → (S₊ (suc m)) → Type ℓ}
+wedgeconFun : ∀ {ℓ} (n m : ℕ) {A : (S₊ (suc n)) → (S₊ (suc m)) → Type ℓ}
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:74]: Do you have to quantify over `ℓ` here? (It's already a variable in the file)

File: Cubical/Papers/ZCohomology.agda [hunk 2]
```diff
@@ -156,7 +156,7 @@ open coHom using (K)
 open S using (sphereConnected)
 
 -- Lemma 1
-open S using (wedgeConSn)
+open S using (wedgeconFun; wedgeconLeft ; wedgeconRight)
 
 -- restated to match the formulation in the paper
 wedgeConSn' : ∀ {ℓ} (n m : ℕ) {A : (S₊ (suc n)) → (S₊ (suc m)) → Type ℓ}
```
Comment (mortberg) [inline Cubical/Papers/ZCohomology.agda:162]: Same here, is it really necessary to quantify over `ℓ`?

File: Cubical/ZCohomology/EilenbergSteenrodZ.agda [hunk 3]
```diff
@@ -157,24 +155,22 @@ fun (suspFunCharac {A = A} n) =
...
-                                                 ∙∙ ΩKn+1→Kn-hom (suc n) (Kn→ΩKn+1 (suc n) (f x))
+        λ f → trRec (isProp→isOfHLevelSuc n (setTruncIsSet _ _))
+                (λ fId → cong ∣_∣₂
+                (funExt (λ x → (λ i → ΩKn+1→Kn (suc n) (sym (rCancel≡refl n i) ∙∙ cong (λ x → suspΩFun (suc n) f x +ₖ 0ₖ _)
+                                                               (merid x ∙ sym (merid (pt A))) ∙∙ rCancel≡refl n i))
+                             ∙∙ (λ i → ΩKn+1→Kn (suc n) (rUnit (cong (λ x → suspΩFun (suc n) f x +ₖ 0ₖ _)
+                                                                       ((merid x) ∙ sym (merid (pt A)))) (~ i)))
+                             ∙∙ (λ i → ΩKn+1→Kn (suc n) (congFunct (λ x → rUnitₖ _ (suspΩFun (suc n) f x) i)
+                                                                     (merid x) (sym (merid (pt A))) i))
+                             ∙∙ ΩKn+1→Kn-hom (suc n) (Kn→ΩKn+1 (suc n) (f x))
```
Comment (mortberg) [inline Cubical/ZCohomology/EilenbergSteenrodZ.agda:166]: Just a thought, instead of calling `ΩKn+1→Kn` 4 times, maybe you could compose the paths first and then apply it once?

File: Cubical/HITs/Sn/Properties.agda [hunk 4]
```diff
@@ -97,34 +107,28 @@ wedgeConSn zero zero {A = A} hlev f g hom = F , (λ _ → refl) , right
                           (g (loop i))
   F (loop i) (loop j) = helper i j
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:108]: Why give helper explicitly? I feel like you could inline it here

File: Cubical/HITs/Sn/Properties.agda [hunk 5]
```diff
@@ -87,8 +98,7 @@ wedgeConSn zero zero {A = A} hlev f g hom = F , (λ _ → refl) , right
                          λ i → hcomp (λ k → λ { (i = i0) → hom k
                                                 ; (i = i1) → hom k })
                                        (g (loop i))
-  helper = transport (sym (PathP≡Path _ _ _))
-                     (isOfHLevelPathP' 1 (hlev base base) _ _ _ _)
+  helper = toPathP (isOfHLevelPathP' 1 (hlev _ _) _ _ _ _)
 
   F : (x y : S¹) → A x y
   F base y = f y
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:104]: For the `F (loop i) base` case, can't you use `_∙ ∙ _∙ ∙ _`?

File: Cubical/ZCohomology/Properties.agda [hunk 6]
```diff
@@ -195,31 +195,23 @@ rightInv (Iso-coHom-coHomRed {A = A , a} n) =
                       (Iso.fun (PathIdTruncIso (suc n)) (isContr→isProp (isConnectedKn n) ∣ f a ∣ ∣ 0ₖ _ ∣))
 leftInv (Iso-coHom-coHomRed {A = A , a} n) =
   sElim (λ _ → isOfHLevelPath 2 § _ _)
-        λ {(f , p) → cong ∣_∣₂ (ΣPathP (((funExt λ x → cong (λ y → f x -ₖ y) p
+        λ {(f , p) → cong ∣_∣₂ (ΣPathP (((funExt λ x → (cong (λ y → f x -ₖ y) p
                                                     ∙∙ cong (λ y → f x +ₖ y) -0ₖ
-                                                    ∙∙ rUnitₖ _ (f x)))
+                                                    ∙∙ rUnitₖ _ (f x)) ∙ refl))
```
Comment (mortberg) [inline Cubical/ZCohomology/Properties.agda:200]: Why compose with refl?

File: Cubical/ZCohomology/Properties.agda [hunk 7]
```diff
@@ -195,31 +195,23 @@ rightInv (Iso-coHom-coHomRed {A = A , a} n) =
...
                               , helper n (f a) (sym p)))}
     where
     path : (n : ℕ) (x : coHomK (suc n)) (p : 0ₖ _ ≡ x) → _
-    path n x p = cong (λ y → x -ₖ y) (sym p) ∙∙ cong (λ y → x +ₖ y) -0ₖ ∙∙ rUnitₖ _ x
+    path n x p = (cong (λ y → x -ₖ y) (sym p) ∙∙ cong (λ y → x +ₖ y) -0ₖ ∙∙ rUnitₖ _ x) ∙ refl
```
Comment (mortberg) [inline Cubical/ZCohomology/Properties.agda:204]: Why compose with refl?

**Review by mortberg — CHANGES_REQUESTED** [review]
Looks good to me, except for some minor things

File: Cubical/ZCohomology/Properties.agda (hunk 6 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/Properties.agda:200]: This is due to a change in rCancelₖ (with the new definition of subtraction). Adding refl here makes the path algebra in the helper function below easier.

File: Cubical/ZCohomology/Properties.agda (hunk 7 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/Properties.agda:204]: Same reason as above.

File: Cubical/HITs/Sn/Properties.agda (hunk 5 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:104]: Homogeneous composition won't work here since A is dependent

File: Cubical/HITs/Sn/Properties.agda (hunk 4 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:108]: I usually do it like this, since otherwise I'll have to write out all the implicit arguments (which get even messier after toPathP is applied).

File: Cubical/Papers/ZCohomology.agda (hunk 2 above)
Comment (aljungstrom) [reply Cubical/Papers/ZCohomology.agda:162]: There are no variables in this file. I could of course add some if you want.

File: Cubical/ZCohomology/EilenbergSteenrodZ.agda (hunk 3 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/EilenbergSteenrodZ.agda:167]: Wups, I think I had some type checking issues when rewriting this with the new definition of `rCancelₖ.` Fixed.

File: Cubical/HITs/Sn/Properties.agda (hunk 5 above)
Comment (ecavallo) [reply Cubical/HITs/Sn/Properties.agda:104]: It's not so much homogeneous vs heterogeneous composition (you're still using `hcomp`) as that there's an artifical restriction in the type of `_∙∙_∙∙_` when we require the middle path to be homogeneous. We could easily generalize it:
```
doubleComp-faces : (A : I → Type ℓ) {x y : A i0} {z w : A i1}
  (p : x ≡ y) (r : z ≡ w)
  → (i : I) (j : I) → Partial (i ∨ ~ i) (A i)
doubleComp-faces A p r i j (i = i0) = p (~ j)
doubleComp-faces A p r i j (i = i1) = r j

_∙∙_∙∙_ : {A : I → Type ℓ} {w x : A i0} {y z : A i1}
  → w ≡ x → PathP A x y → y ≡ z → PathP A w z
_∙∙_∙∙_ {A = A} p q r i =
  hcomp (doubleComp-faces A p r i) (q i)

doubleCompPath-filler : {A : I → Type ℓ} {x y : A i0} {z w : A i1}
  (p : x ≡ y) (q : PathP A y z) (r : z ≡ w)
  → PathP (λ j → PathP A (p (~ j)) (r j)) q (p ∙∙ q ∙∙ r)
doubleCompPath-filler {A = A} p q r j i =
  hfill (doubleComp-faces A p r i) (inS (q i)) j
```

File: Cubical/Experiments/ZCohomologyExperiments.agda [hunk 8]
```diff
@@ -0,0 +1,79 @@
+{-# OPTIONS --cubical --no-import-sorts --safe #-}
```
Comment (mortberg) [inline Cubical/Experiments/ZCohomologyExperiments.agda:1]: Please remove `--cubical --no-import-sorts` as they're not needed anymore

File: Cubical/HITs/Sn/Properties.agda (hunk 5 above)
Comment (mortberg) [reply Cubical/HITs/Sn/Properties.agda:104]: Did you add this @aljungstrom ?

**Review by mortberg — APPROVED** [review]
Please rebase on master and remove the `--cubical --no-import-sorts` flags from the new files, then I think we can merge

File: Cubical/HITs/Sn/Properties.agda (hunk 5 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:104]: I vote for fixing this in a separate PR. Changing this here causes issues in other places in the library.

Comment (mortberg) [reply Cubical/HITs/Sn/Properties.agda:104]: Sure! Can you add it as an issue so that we don't forget about it?
